US08957205B2
2-(5-Methylisoxazol-4-yl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
1 g (7.87 mmol) of 5-methylisoxazole-4-carboxylic acid was added to 3 ml of thionyl chloride, and the mixture was stirred overnight. The reaction solution was concentrated under reduced pressure, and the obtained residue was added to a solution of 1.13 g (7.87 mmol) of 1-aminocyclohexanecarboxylic acid and 6.6 g (79 mmol) of sodium hydrogencarbonate in 30 ml of toluene-30 ml of water. After the mixture was stirred at room temperature overnight, the toluene layer was separated. The aqueous layer was neutralized by potassium hydrogensulfate and extracted with ethyl acetate. After the obtained organic layer was washed with saturated brine, the layer was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, methylene chloride was added thereto, and 332 mg (1.73 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added thereto under ice-cooling. After the mixture was stirred at room temperature overnight, the reaction solution was concentrated under reduced pressure, ethyl acetate was added thereto, and the mixture was successively washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 295 mg (16%) of the title compound.

reactant | 5-methylisoxazole-4-carboxylic acid | 7.87 mmol, 1 g | CC1=C(C=NO1)C(=O)O | C5H5NO3
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-aminocyclohexanecarboxylic acid | 7.87 mmol, 1.13 g | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | sodium hydrogencarbonate | 79 mmol, 6.6 g | C(O)([O-])=O.[Na+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.73 mmol, 332 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(5-Methylisoxazol-4-yl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 295 mg, 16% | CC1=C(C=NO1)C1=NC2(C(O1)=O)CCCCC2 | C12H14N2O3
